US08877782B2
6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid methyl ester
A mixture of (5-methyl-3-phenyl-4-isoxazolyl)-methylamine (200 mg, 1.06 mmol), methyl 6-chloronicotinate (182 mg, 1.06 mmol), N,N-diisopropyl ethyl amine (364 μL, 2.13 mmol) and DMSO (2 mL) was heated in the microwave to 160° C. for 0.5 h. It was diluted with ethyl acetate (8 mL) and washed with aqueous sodium carbonate (saturated, 8 mL), water (8 mL) and brine (8 mL). The combined aqueous layers were extracted with ethyl acetate (10 mL) and the combined organic layers were dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound (158 mg, 46%) as a light yellow oil. MS: m/e=324.3 [M+H]+.

reactant | (5-methyl-3-phenyl-4-isoxazolyl)-methylamine | 1.06 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)NC | C11H12N2O
reactant | methyl 6-chloronicotinate | 1.06 mmol, 182 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | N,N-diisopropyl ethyl amine | 2.13 mmol, 364 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid methyl ester | 158 mg, 46% | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H17N3O3
